data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
551,601,[CH3:9][C:10](=[O:11])[C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:15]([CH3:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[O:14][C:12]2([C:10]([CH3:9])=[O:11])[CH3:13],water,298.15,13.48028246582791,-58.60686154075056
2837,3152,[CH3:24][NH:25][C:26](=[O:27])[C:28]([C:29](=[O:30])[NH:31][CH3:32])=[N+:33]([CH3:34])[N-:35][C:36](=[O:37])[O:38][CH3:39].[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([Cl:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([Cl:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[N:35]([C:36](=[O:37])[O:38][CH3:39])[N:33]([CH3:34])[C:28]2([C:26]([NH:25][CH3:24])=[O:27])[C:29](=[O:30])[NH:31][CH3:32],water,298.15,33.75006439080134,-8.722558534223701
548,598,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[NH+:18]=[C:19]([CH3:20])[C:21]#[N:22].[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[NH:18][C:19]2([CH3:20])[C:21]#[N:22],water,298.15,17.931376374071554,-16.321024482675895
294,319,[CH3:6][NH:7][C:8](=[O:9])[C:10](=[O+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19].[CH:1]#[C:2][C:3]([CH3:4])=[O:5]>>[CH:1]1=[C:2]([C:3]([CH3:4])=[O:5])[C:12]([CH3:13])([C:14]([CH3:15])=[O:16])[O:11][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:17]([CH3:18])=[O:19],water,298.15,14.61400555737852,-66.00129950904706
3186,3596,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][O-:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[O:16][N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,23.66031295339503,-22.72472230195487
5200,5901,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C-:19]([NH+:20]=[CH:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28](=[O:29])[O:30][CH3:31]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:28](=[O:29])[O:30][CH3:31])[NH:20][CH:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,20.76066378247353,3.0277419692754406
1550,1715,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[O+:21][C-:22]([C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:22]([C:23]([CH3:24])=[O:25])([C:26]([CH3:27])=[O:28])[O:21][CH:20]2[C:18]([NH:17][CH3:16])=[O:19],water,298.15,6.305291340305304,-38.708232815769904
1466,1615,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[O+:15][C-:16]([C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22].[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:16]([C:17]#[N:18])([C:19](=[O:20])[NH:21][CH3:22])[O:15][CH:14]2[C:12]([NH:11][CH3:10])=[O:13],water,298.15,6.327855527800968,-55.59396784039809
4592,5237,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]([C:8](=[O:9])[NH:10][CH3:11])=[N+:12]([CH3:13])[C-:14]([C:15](=[O:16])[O:17][CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH2:1]1[CH2:2][C:14]([C:15](=[O:16])[O:17][CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:12]([CH3:13])[C:7]1([C:5]([NH:4][CH3:3])=[O:6])[C:8](=[O:9])[NH:10][CH3:11],water,298.15,25.36341515593401,-35.235268963615866
2842,3158,[CH3:19][O:20][C:21](=[O:22])[C-:23]([O+:24]=[CH:25][C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([O:20][CH3:19])=[O:22])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[O:24][CH:25]2[C:26]([CH3:27])=[O:28],water,298.15,15.390167549205891,-63.08275520167077
3100,3490,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7]([C:8]#[N:9])=[NH+:10][C-:11]([CH3:12])[C:13]([CH3:14])=[O:15]>>[CH2:1]1[CH2:2][C:11]([CH3:12])([C:13]([CH3:14])=[O:15])[NH:10][C:7]1([C:5]([O:4][CH3:3])=[O:6])[C:8]#[N:9],water,298.15,22.189064453041816,-15.407036560110209
